US05120848
(E)-3-[5-(4-Fluorophenyl)-2-(1-methylethyl)-4-(4-pyridinyl)-1H-imidazol-1-yl]-2-propenol
A stirred suspension in toluene of methyl (E)-3-[5-(4-fluorophenyl)-2-(1-methylethyl)-4-(4-pyridinyl)-1H-imidazol-1-yl]-2-propenoate, 1'-oxide, (0.22 g), at -78° under nitrogen was treated with diisobutylaluminium hydride (1.5M in toluene; 0.8 ml). The mixture was stirred at -40° for 1 h and then allowed to warm to 0° before addition of water (1 ml) and ethyl acetate (20 ml). After stirring for 0.5 h the organic layer was separated, washed with brine, dried and evaporated to dryness. The residue was purified by CC eluting with a mixture of ethyl acetate, petroleum ether (bp. 40°-60°) and methanol (5:5:2) to give the title compound (0.05 g), δ(CDCl3) 8.39(m,2H,C-2 and C-6 protons of pyridine), 6.60(d,1H,J15 Hz,NCH=CH), 5.58(dd,1H,J15 and 6 Hz,NCH=CH), 4.18(m,2H,CH2OH), 3.17(septet,1H,J7 Hz,CH(CH3)2), 1.42(d,6H,J7 Hz,CH(CH3)2).

reactant | methyl (E)-3-[5-(4-fluorophenyl)-2-(1-methylethyl)-4-(4-pyridinyl)-1H-imidazol-1-yl]-2-propenoate | FC1=CC=C(C=C1)C1=C(N=C(N1/C=C/C(=O)OC)C(C)C)C1=CC=NC=C1 | C21H20FN3O2
reactant | diisobutylaluminium hydride | 1.5M, 0.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | water | 1 ml | O | H2O
reactant | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[5-(4-Fluorophenyl)-2-(1-methylethyl)-4-(4-pyridinyl)-1H-imidazol-1-yl]-2-propenol | 0.05 g | FC1=CC=C(C=C1)C1=C(N=C(N1/C=C/CO)C(C)C)C1=CC=NC=C1 | C20H20FN3O
